US05804560
To a stirred solution of 1-nitropentane (1.0 g, 8.5 mmol) and trifluoroacetaldehyde ethyl hemiacetal (1.2 mL, 8.5 mL) was added potassium carbonate (K2CO3 ) (0.06 g, 0.43 mmol). The reaction mixture was heated at 60° C. under Ar for 3 h. The mixture was cooled to R.T., then taken up in EA (50 mL). The organic layer was washed with 1N HCl (2×10 mL), sat. NaCl (2×10 mL), dried (MgSO4), filtered and concentrated to give (2SR)-(3SR)-3-nitro-1,1,1-trifluoro-2-heptanol as a crude oil (1.7 g, 93%): 1H NMR (CDCl3, 300 MHz) δ 0.91 (t, 3 H, J=7.2 Hz), 1.24-1.43 (m, 4 H), 2.04-2.11 (m, 2 H), 4.08-4.77 (m, 3 H) ppm.

reactant | 1-nitropentane | 8.5 mmol, 1.0 g | [N+](=O)([O-])CCCCC | C5H11NO2
reactant | trifluoroacetaldehyde ethyl hemiacetal | 1.2 mL | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | potassium carbonate | 0.43 mmol, 0.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | EA | 50 mL | CC(OCC)=O | C4H8O2
product | (2SR)-(3SR)-3-nitro-1,1,1-trifluoro-2-heptanol | [N+](=O)([O-])C(C(C(F)(F)F)O)CCCC | C7H12F3NO3
